US09359359B2
To a solution of 1-iodo-3-(trifluoromethoxy)benzene (0.5 g, 1.73 mmol) in toluene (10 mL) was added prop-2-yn-1-ol (0.15 g, 2.62 mmol) and morpholine (0.5 mL). Then cuprous iodide (4 mg, 0.02 mmol) and bis(triphenylphosphine)palladium(II) chloride (14 mg, 0.02 mmol) were added to the mixture under nitrogen. The reaction was heated at 80° C. overnight. The mixture was cooled and partitioned between ethyl acetate and water. The combined organic layer was dried over sodium sulfate, filtered and concentrated to give a crude product which was purified by column chromatography eluting with ethyl acetate/petroleum ether (1:6 to 1:3) to give 3-(3-(trifluoromethoxy)phenyl)prop-2-yn-1-ol (0.3 g, 80.2%) as a yellow oil. LCMS retention time 1.552 min.

reactant | 1-iodo-3-(trifluoromethoxy)benzene | 1.73 mmol, 0.5 g | IC1=CC(=CC=C1)OC(F)(F)F | C7H4F3IO
reactant | prop-2-yn-1-ol | 2.62 mmol, 0.15 g | C(C#C)O | C3H4O
reactant | morpholine | 0.5 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.02 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(3-(trifluoromethoxy)phenyl)prop-2-yn-1-ol | 0.3 g, 80.2% | FC(OC=1C=C(C=CC1)C#CCO)(F)F | C10H7F3O2
